US05912356
(1S, 2R, 3R, 5R)-5-[5,6-Dichloro-2-(cyclopropylamino)- 1H-benzimidazol-1-yl]-3-(hydroxymethyl)- 1,2-cyclopentanediol
(1S, 2R, 3R, 5R)-3-Acetoxymethyl)-5-(2-bromo-5,6-dichloro-1-H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (500 mg 0.958 mmole) was refluxed in water: ethanol/2:1 (7.5 mL) with cyclopropylamine (0.66 mL, 9.6 mmole) under nitrogen for 18 hours. TLC (silica gel, 10% methanol-chloroform) showed complete conversion to a single spot with lower Rf than starting material. 1 N sodium hydroxide (0.96 mL) was added and volatiles were evaporated. The residue was chromatographed on a silica gel flash column. Title compound was eluted with 10% methanol-chloroform as a colorless glass which solidified from water:ethanol/2:1 (5 mL) to give off-white powder (207 mg, 59%, m.p. 116-118° C. dec.; 1H-NMR(DMSO-d6)δ and mass spectrum: identical with those of enantiomer described in Example 74; [α]20589 -12.2°, [α]20578 -12.5°, [α]20546 -13.5° (c=0.312, methanol).

reactant | 5-(2-bromo-5,6-dichloro-1-H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 0.958 mmole, 500 mg | C(C)(=O)OC1C(CCC1N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Br)OC(C)=O | C16H15BrCl2N2O4
reactant | ethanol | 7.5 mL | C(C)O | C2H6O
reactant | cyclopropylamine | 9.6 mmole, 0.66 mL | C1(CC1)N | C3H7N
reactant | sodium hydroxide | 1 N, 0.96 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | (1S, 2R, 3R, 5R)-5-[5,6-Dichloro-2-(cyclopropylamino)- 1H-benzimidazol-1-yl]-3-(hydroxymethyl)- 1,2-cyclopentanediol | ClC1=CC2=C(N(C(=N2)NC2CC2)[C@@H]2C[C@@H]([C@H]([C@H]2O)O)CO)C=C1Cl | C16H19Cl2N3O3
